US06255333B1
1-(2,6-Dichloro-4-trifluoromethylphenyl)-3,5-dimethyl-4-iodopyrazole
To a stirred solution of 1-(2,6-dichloro-4-trifluoromethylphenyl)-3,5-dimethylpyrazole (0.218 g) in acetonitrile (3 ml) at room temperature was added dropwise a solution of N-iodosuccinimide (0.158 g) in acetonitrile (2 ml). After 27 hours the mixture was evaporated to dryness and the residue purified by column chromatography on silica gel (5 g) eluted with dichloromethane. Combination and evaporation of suitable fractions provided the title compound as yellow oil.

reactant | 1-(2,6-dichloro-4-trifluoromethylphenyl)-3,5-dimethylpyrazole | 0.218 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C=C1C)C | C12H9Cl2F3N2
reactant | N-iodosuccinimide | 0.158 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 1-(2,6-Dichloro-4-trifluoromethylphenyl)-3,5-dimethyl-4-iodopyrazole | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1C)I)C | C12H8Cl2F3IN2
